US07626042B2
(1) 5-Bromo-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxybenzamide
Using 5-bromosalicylic acid and 3,5-bis[(1,1-dimethyl)ethyl]aniline as the raw material, the same operation as the Example 1(1) gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,5-bis[(1,1-dimethyl)ethyl]aniline | CC(C)(C)C=1C=C(N)C=C(C1)C(C)(C)C | C14H23N
product | 5-Bromo-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxybenzamide | Yield: 45.2% | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C1)O | C21H26BrNO2
